US09260397B2
1-(4-methoxyphenyl)-3-heptyl imidazolium bromide
According to the general synthesis procedure 5.7 mmol (1.00 g) 1-(4-methoxyphenyl)imidazole and 6.9 mmol (1.23 g, 1.1 ml) 1-bromoheptane are dissolved in 5 ml THF and heated for 18 h to 90° C.

reactant | 1-(4-methoxyphenyl)imidazole | 5.7 mmol, 1.00 g | COC1=CC=C(C=C1)N1C=NC=C1 | C10H10N2O
reactant | 1-bromoheptane | 6.9 mmol, 1.1 ml, 1.23 g | BrCCCCCCC | C7H15Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-methoxyphenyl)-3-heptyl imidazolium bromide | [Br-].COC1=CC=C(C=C1)[N+]1=CN(C=C1)CCCCCCC | InChI=1S/C17H25N2O.BrH/c1-3-4-5-6-7-12-18-13-14-19(15-18)16-8-10-17(20-2)11-9-16;/h8-11,13-15H,3-7,12H2,1-2H3;1H/q+1;/p-1
